US08044213B2
To a mixture of 0.070 g (0.15 mmole) of 4-(3-chloro-phenyl)-2-[6-(2-hydroxy-ethoxy)-5-methoxy-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide (I.44a), 0.041 g (0.242 mmole) of ethyldiisopropylamine and 3 mL of dimethylformamide 0 degrees was added 0.027 g (0.24 mmole) of methanesulfonyl chloride. Stirring was continued for 1 hour and then 1 mL of saturated ammonium chloride solution was added dropwise. The mixture was poured into 25 mL of water and extracted three times with 20 mL of ethyl acetate. The combined organic extracts were washed three times with 25 mL of water, once with 25 mL of saturated sodium bicarbonate solution, once with 25 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was heated at 80 degrees for 1 hour with 2 mL of dimethylformamide and 0.080 g of N-methylpiperazine. The mixture was poured into 25 mL of water and extracted three times with 20 mL of ethyl acetate. The combined organic extracts were washed three times with 25 mL of water, once with 25 mL of saturated sodium bicarbonate solution, once with 25 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with methanol-dichloromethane (gradient 12:88-17:83) to give 0.023 g of 4-(3-chloro-phenyl)-2-{5-methoxy-6-[2-(4-methyl-piperazin-1-yl)-ethoxy]-benzoimidazol-1-yl}thiazole-5-carboxylic acid amide (I.44) as a pink solid. MH+/Z=527

reactant | 4-(3-chloro-phenyl)-2-[6-(2-hydroxy-ethoxy)-5-methoxy-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide | 0.15 mmole, 0.070 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C(=C2)OC)OCCO | C20H17ClN4O4S
reactant | ethyldiisopropylamine | 0.242 mmole, 0.041 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.24 mmole, 0.027 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | water | 25 mL | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-{5-methoxy-6-[2-(4-methyl-piperazin-1-yl)-ethoxy]-benzoimidazol-1-yl}thiazole-5-carboxylic acid amide | 0.023 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C(=C2)OC)OCCN2CCN(CC2)C | C25H27ClN6O3S
